US07375134B2
Step 2: Preparation of (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,3,3,3-pentafluoropropyl]amino}-4-methylpentan-1-ol
To a −78° C. solution of dibromobenzene (9.85 g, 41.8 mmol) in 100 mL of THF was added nBuLi (16.5 mL of 2.5M hexanes solution, 41.2 mmol) giving a thick suspension. After stirring 10 min, a solution of (4S)-4-isobutyl-2-(pentafluoroethyl)-1,3-oxazolidine (3.3 g, 13 mmol) in 3 mL THF was added giving a dark brown solution. The solution was allowed to warm to room temperature, then was poured into saturated aqueous ammonium chloride and extracted with ether. Purification by silica gel chromatography (10% to 40% ethyl acetate/hexanes gradient) gave the title compound as a single diastereomer.

reactant | dibromobenzene | 41.8 mmol, 9.85 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | nBuLi | 41.2 mmol, 2.5M, 16.5 mL | [Li]CCCC
reactant | (4S)-4-isobutyl-2-(pentafluoroethyl)-1,3-oxazolidine | 13 mmol, 3.3 g | C(C(C)C)[C@@H]1NC(OC1)C(C(F)(F)F)(F)F | C9H14F5NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,3,3,3-pentafluoropropyl]amino}-4-methylpentan-1-ol | BrC1=CC=C(C=C1)[C@@H](C(C(F)(F)F)(F)F)N[C@H](CO)CC(C)C | C15H19BrF5NO
